US07612226B2
N-[(1E,4R)-1,4-dimethylhexylidene]-(S)-2-methylpropane-2-sulfinamide
A solution of (5R)-5-methylheptan-2-one (3 g, 23.4 mmol) in tetrahydrofuran (10 ml) was added to a solution of (S)-2-methylpropane-2-sulfinamide and titanium tetraethoxide (9.8 ml, 46.8 mmol) in tetrahydrofuran. The solution was stirred at 50° C. for 20 hours. The reaction mixture was allowed to cool to room temperature, diluted with ethyl acetate (50 ml) and then poured into brine (100 ml).

reactant | (5R)-5-methylheptan-2-one | 23.4 mmol, 3 g | C[C@@H](CCC(C)=O)CC | C8H16O
reactant | (S)-2-methylpropane-2-sulfinamide | CC(C)(C)[S@](=O)N | C4H11NOS
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | brine | 100 ml | [Cl-].[Na+].O
catalyst | titanium tetraethoxide | 46.8 mmol, 9.8 ml | [O-]CC.[O-]CC.[O-]CC.[O-]CC.[Ti+4]
product | N-[(1E,4R)-1,4-dimethylhexylidene]-(S)-2-methylpropane-2-sulfinamide | C/C(/CC[C@@H](CC)C)=N\[S@@](=O)C(C)(C)C | C12H25NOS
